US08980934B2
2-(4-iodophenyl)-6-(oxetan-3-yl)-2,6-diazaspiro[3.3]heptane
2-(4-Iodophenyl)-2,6-diazaspiro[3.3]heptane (1.01 g, 3.4 mmol), and 3-oxetanone (0.29 g, 4.0 mmol) was dissolved in DCE (15 mL) and heated to 50° C. for 10 min. Acetic acid (5 drops) and NaBH(OAc)3 (1.07 g, 5.1 mmol) was added and the reaction was stirred for 16 h at 50° C. The mixture was concentrated under reduced pressure and suspended in NaHCO3 (50 mL) and extracted with EtOAc (2×40 mL) and washed with brine. The EtOAc layer was dried (MgSO4), and concentrated to dryness to give the title compound as a white solid (1.15 g, 96%). MS ESI 357.0 [M+H]+, calcd for [C14H17IN2O+H]+357.0.

reactant | 2-(4-Iodophenyl)-2,6-diazaspiro[3.3]heptane | 3.4 mmol, 1.01 g | IC1=CC=C(C=C1)N1CC2(C1)CNC2 | C11H13IN2
reactant | 3-oxetanone | 4.0 mmol, 0.29 g | O1CC(C1)=O | C3H4O2
reactant | NaBH(OAc)3 | 5.1 mmol, 1.07 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
catalyst | Acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 2-(4-iodophenyl)-6-(oxetan-3-yl)-2,6-diazaspiro[3.3]heptane | 1.15 g, 96% | IC1=CC=C(C=C1)N1CC2(C1)CN(C2)C2COC2 | C14H17IN2O
